US08748461B2
(3,5-Difluoropyridin-2-yl)methyl 4-methylbenzenesulfonate (I-5)
To a solution of (3,5-difluoropyridin-2-yl)methanol (0.25 g, 0.7 mmol) in tetrahydrofuran (THF; 10 mL) was added potassium hydroxide (KOH; 0.14 g, 2.55 mmol) at RT, and the mixture was stirred for 15 min. p-Toluenesulfonyl chloride (0.42 g, 2.21 mmol) was added slowly at RT, and the reaction mixture was stirred for another 18 h. After complete consumption of the starting material (by TLC), the reaction mixture was diluted with H2O (50 mL) and extracted with EtOAc (2×25 mL). The combined organic extracts were washed with H2O (25 mL) and brine (25 mL), dried over anhydrous Na2SO4 and concentrated under reduced pressure to obtain the crude material. Purification by silica gel column chromatography eluting with 15% EtOAc/hexane afforded compound I-5 (0.18 g, 0.25 mmol, 35%) as colorless liquid. 1H NMR (500 MHz, CDCl3): δ 8.29 (s, 1H), 7.82 (d, J=8.5 Hz, 2H), 7.34 (d, J=8.5 Hz, 2H), 7.20-7.16 (m, 1H), 5.20 (s, 2H), 2.45 (s, 3H)

reactant | (3,5-difluoropyridin-2-yl)methanol | 0.7 mmol, 0.25 g | FC=1C(=NC=C(C1)F)CO | C6H5F2NO
reactant | potassium hydroxide | 2.55 mmol, 0.14 g | [OH-].[K+]
reactant | p-Toluenesulfonyl chloride | 2.21 mmol, 0.42 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (3,5-Difluoropyridin-2-yl)methyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCC1=NC=C(C=C1F)F | C13H11F2NO3S
